US07652049B2
(4R,5R)-3-[3,5-bis(trifluoromethyl)benzyl]-5-[5′-isopropyl-2′-(trifluoromethoxy)-4-(trifluoromethyl)biphenyl-2-yl]-4-methyl-1,3-oxazolidin-2-one
To a solution of 80 mg of (4R,5R)-3-[3,5-bis(trifluoromethyl)benzyl]-5-[2-iodo-5-(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one in 2 mL of benzene, 1 mL of water, and 0.5 mL ethanol was added 100 mg of 5-isopropyl-2-(trifluoromethoxy)phenyl boronic acid, 0.15 mL of 2M aqueous sodium carbonate, and 21 mg of Pd(PPh3)4. A reflux condenser was attached, and the mixture was heated to 100° C. The mixture was stirred at 100° C. for 24 hours, and then was diluted with 10 mL of EtOAc and 10 mL of water. The phases were separated and the aqueous phase was extracted with 10 mL of EtOAc. The combined organic phases were washed with 10 mL of brine, dried over Na2SO4, and concentrated. The residue was purified by flash chromatography on a Biotage Horizon, 25M column, eluting with 1 CV of 2% EtOAc in hexanes, followed by a linear gradient of EtOAc in hexanes from 2 to 100% over 10 CV. The product was repurified using the same conditions to provide the title compound. Mass spectrum (ESI) 674.4 (M+1).

reactant | (4R,5R)-3-[3,5-bis(trifluoromethyl)benzyl]-5-[2-iodo-5-(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one | 80 mg | FC(C=1C=C(CN2C(O[C@@H]([C@H]2C)C2=C(C=CC(=C2)C(F)(F)F)I)=O)C=C(C1)C(F)(F)F)(F)F | C20H13F9INO2
reactant | ethanol | 0.5 mL | C(C)O | C2H6O
reactant | 5-isopropyl-2-(trifluoromethoxy)phenyl boronic acid | 100 mg | C(C)(C)C=1C=CC(=C(C1)B(O)O)OC(F)(F)F | C10H12BF3O3
reactant | sodium carbonate | 2M, 0.15 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | 2 mL | C1=CC=CC=C1 | C6H6
solvent | water | 1 mL | O | H2O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | water | 10 mL | O | H2O
catalyst | Pd(PPh3)4 | 21 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (4R,5R)-3-[3,5-bis(trifluoromethyl)benzyl]-5-[5′-isopropyl-2′-(trifluoromethoxy)-4-(trifluoromethyl)biphenyl-2-yl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(CN2C(O[C@@H]([C@H]2C)C2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC(F)(F)F)=O)C=C(C1)C(F)(F)F)(F)F | C30H23F12NO3
